US08022206B2
4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-3,6-dihydropyridine-1(2H)-sulfonamide
A mixture of 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine (0.0300 g, 0.071 mmol) and Sulfamide (0.00819 g, 0.0852 mmol) in 1,4-Dioxane (2 mL) was stirred under reflux for 7 h. The reaction mixture was directly loaded onto prep TLC for purification (silica gel, eluting with 4% MeOH in DCM) to afford the title compound as a yellow solid. 1H-NMR (CD3OD, 400 MHz): δ=1.87 (d, J=6.6 Hz, 3H), 2.60 (d, J=1.5 Hz, 2H), 3.36 (t, J=5.7 Hz, 2H), 3.85 (d, J=2.8 Hz, 2H), 6.29 (br. s., 1H), 6.49 (q, 1H), 7.21 (t, J=8.7 Hz, 1H), 7.39 (dd, J=9.0, 4.9 Hz, 1H), 7.64 (s, 1H), 8.19 (s, 1H). MS (ES+): m/z 500.98 (MH+, 35Cl, 37Cl), 502.88 (MH+, 37Cl, 37Cl). HPLC: tR=2.92 min (polar—5 min, ZQ3).

reactant | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine | 0.071 mmol, 0.0300 g | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
reactant | Sulfamide | 0.0852 mmol, 0.00819 g | S(=O)(=O)(N)N | H4N2O2S
solvent | 1,4-Dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-3,6-dihydropyridine-1(2H)-sulfonamide | NC1=C(C2=C(C=N1)C(=CO2)C=2CCN(CC2)S(=O)(=O)N)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C20H19Cl2FN4O4S
